US08349880B2
N-(4-(4-chloro-1H-imidazol-1-yl)-3-fluoro-5-methoxyphenyl)-9-(4-fluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine
A mixture of 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-fluoro-5-methoxyphenyl)-1H-1,2,4-triazol-3-amine (120 mg, 0.237 mmol), potassium carbonate (98 mg, 0.710 tunnel) and potassium iodide (58.9 mg, 0.355 mmol) in DMF (5 mL) was heated at 60° C. for 16 hrs. The solvent was removed in vacuo. The crude product was purified using silica gel column chromatography (0-100% EtOAc/CH2Cl2, linear gradient) to afford 72 mg (65% yield) of the titled compound as a solid. LC-MS (M+H)+ 471.2. 1H NMR (500 MHz, chloroform-d) δ ppm 7.41 (s, 1 H) 7.13 (dd, J=8.39, 5.34 Hz, 2 H) 7.03-7.06 (m, 3 H) 6.91 (s, 1 H) 6.89 (dd, J=11.90, 2.14 Hz, 1 H) 4.28 (d, J=7.32 Hz, 1 H) 4.23 (t, J=4.88 Hz, 2 H) 3.72 (s, 3 H) 2.15-2.26 (m, 1 H) 2.05-2.11 (m, 1 H) 1.79-2.03 (m, 4 H).

reactant | 5-(5-chloro-1-(4-fluorophenyl)pentyl)-N-(4-(4-chloro-1H-imidazol-1-yl)-3-fluoro-5-methoxyphenyl)-1H-1,2,4-triazol-3-amine | 0.237 mmol, 120 mg | ClCCCCC(C1=CC=C(C=C1)F)C1=NC(=NN1)NC1=CC(=C(C(=C1)OC)N1C=NC(=C1)Cl)F | C23H22Cl2F2N6O
reactant | potassium carbonate | 98 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.355 mmol, 58.9 mg | [I-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(4-(4-chloro-1H-imidazol-1-yl)-3-fluoro-5-methoxyphenyl)-9-(4-fluorophenyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[1,5-a]azepin-2-amine | 72 mg, 65% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1OC)NC1=NN2C(C(CCCC2)C2=CC=C(C=C2)F)=N1)F | C23H21ClF2N6O
